US05807859
The process is performed as in Example 3 for the preparation of 10-(2-carboxybenzylidene)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one but starting with 4.46 g of 5H,10H-imidazo[1,2-a]indeno[1,2-e]-pyrazin-4-one, 80 ml of dimethyl sulphoxide, 2.6 g of 1-methyl-2-formylimidazole and 1.44 g of 80% sodium hydride. After treatment of the reaction mixture with 80 ml of water and 3 ml of acetic acid, the suspension is filtered and the red solid obtained is washed with methanol and air-dried to give 5 g of 10-[(1-methylimidazol-2-yl)methylene]-5H,10H-imidazo-[1,2-a]indeno[1,2-e]pyrazin-4-one. The dihydrochloride is formed by adding 3 ml of 3N hydrochloric acid solution in-ethyl ether to a suspension of 1.5 g of crude base in 50 ml of methanol. The yellow precipitate formed is filtered off and dried at 60° C. under vacuum (1 mmHg; 0.13 kPa). 1.75 g of 10-[(1-methylimidazol-2-yl)methylene]-5H,10H-imidazo[1,2-a]indeno[1,2-e]-pyrazin-4-one dihydrochloride are obtained, melting above 260° C. (Analysis, % calculated C: 55.68, H: 3.89, ° Cl: 18.26, N: 18.04, O: 4.12, % found C: 55.8, H: 3.9, N: 17.9).

reactant | 10-(2-carboxybenzylidene)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | C(=O)(O)C1=C(C=C2C=3C=CC=CC3C=3NC(C=4N(C32)C=CN4)=O)C=CC=C1 | C21H13N3O3
reactant | 5H,10H-imidazo[1,2-a]indeno[1,2-e]-pyrazin-4-one | 4.46 g | C1=CN=C2N1C1=C(NC2=O)C=2C=CC=CC2C1 | C13H9N3O
reactant | 1-methyl-2-formylimidazole | 2.6 g | CN1C(=NC=C1)C=O | C5H6N2O
reactant | sodium hydride | 1.44 g | [H-].[Na+]
solvent | dimethyl sulphoxide | 80 ml | CS(=O)C | C2H6OS
product | 10-[(1-methylimidazol-2-yl)methylene]-5H,10H-imidazo-[1,2-a]indeno[1,2-e]pyrazin-4-one | 5 g | CN1C(=NC=C1)C=C1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C18H13N5O
